* TLV272 Dual 16V 3Mhz Rail-to-Rail Op-Amps
* file name: TLV272.lib
.subckt TLV272 1out 1in- 1in+ gnd 2in+ 2in- 2out vdd
.include TLV271.LIB
XU1A 1in+ 1in- vdd gnd 1out amp_tlv27x_highVdd
XU1B 2in+ 2in- vdd gnd 2out amp_tlv27x_highVdd
.ends